US06919470B2
4-Hydroxy-2-pyridinyl trifluoromethanesulfonate
Under argon, 5.91 g (53.2 mmol) of dihydroxypyridine are suspended in 54.2 ml of pyridine and cooled to 0° C. To this are added dropwise, over the course of about 10 minutes, 8.55 ml (50.5 mmol) of trifluoromethanesulfonic anhydride. The mixture is then allowed to reach room temperature and is stirred for 30 minutes. Working up takes place by adding water, extracting with ethyl acetate, washing, drying and evaporating in a rotary evaporator. The residue is purified by chromatography on 200 g of silica gel (0.04-0.063 mm) with cyclohexane/ethyl acetate (9:1 to 1:1).

reactant | dihydroxypyridine | 53.2 mmol, 5.91 g | OC=1C(=NC=CC1)O | C5H5NO2
reactant | trifluoromethanesulfonic anhydride | 50.5 mmol, 8.55 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | pyridine | 54.2 ml | N1=CC=CC=C1 | C5H5N
product | 4-Hydroxy-2-pyridinyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=NC=CC(=C1)O)(F)F | C6H4F3NO4S
